US05227386
200 mg of 3-(1-Acetyl-5-methoxy-2-methyl-3-indolyl)quinuclidine are stirred on a steam bath for 16 hours with 100 mg of KOH in 7 ml of water and 14 ml of ethanol. The mixture is then worked up as is customary. 3-(5-methoxy-2-methyl-3-indolyl)quinuclidine is obtained; hydrochloride, m.p. 231.7°-234.0°.

reactant | 3-(1-Acetyl-5-methoxy-2-methyl-3-indolyl)quinuclidine | 200 mg | C(C)(=O)N1C(=C(C2=CC(=CC=C12)OC)C1CN2CCC1CC2)C | C19H24N2O2
reactant | KOH | 100 mg | [OH-].[K+]
solvent | water | 7 ml | O | H2O
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | 3-(5-methoxy-2-methyl-3-indolyl)quinuclidine | COC=1C=C2C(=C(NC2=CC1)C)C1CN2CCC1CC2 | C17H22N2O
